US04436753
To a solution (15 ml) of 3 g of methyl 21-(2-hydroxy-3,4-dimethoxy-6-methylbenzoyl)heneicosanoate in ethyl acetate are added 0.015 ml of 60% perchloric acid and 600 mg of 5% palladium-on-carbon, and catalytic reduction is carried out at a 70° C. using hydrogen gas at the pressure of 100 kg/cm2. The catalyst is filtered off and the filtrate is washed in sequence with ice water, a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. Removal of the solvent by distillation under reduced pressure gives colorless crystals of methyl 22-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)docosanoate. m.p. 71°-72.5° C.

reactant | methyl 21-(2-hydroxy-3,4-dimethoxy-6-methylbenzoyl)heneicosanoate | 15 ml, 3 g | OC1=C(C(=O)CCCCCCCCCCCCCCCCCCCCC(=O)OC)C(=CC(=C1OC)OC)C | C32H54O6
reactant | perchloric acid | 0.015 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 600 mg | [Pd] | Pd
product | methyl 22-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)docosanoate | OC1=C(C(=CC(=C1OC)OC)C)CCCCCCCCCCCCCCCCCCCCCC(=O)OC | C32H56O5
